US07297713B2
4-Bromo-2-fluoroaniline (2.42 g, 12.8 mmol), 1-methyl-5-cyano-2-pyrroleboronic acid (2.3 g, 15.3 mmol), KF (2.45 g, 42.2 mmol), and Pd2(dba)3 (147 mg, 0.16 mmol) were added to a 100 mL round bottom flask under nitrogen. The flask was sealed and purged with nitrogen for 5 min. THF (32 mL) was added and the mixture was purged with nitrogen for an additional 5 min. A solution of tri-t-butylphosphine (10 wt % in hexanes) (0.95 mL, 0.32 mmol) was added via syringe and the mixture was stirred vigorously at 25° C. for 5 h. The mixture was diluted with 250 mL of EtOAc, filtered through a plug of silica gel, washed through with 200 mL of EtOAc and concentrated to give a crude brown/black semi-solid. Purification by flash chromatography (20% acetone/hexane) afforded 5-(4-amino-3-fluorophenyl)-1-methyl-1H-pyrrole-2-carbonitrile (0.76 g) as an off-white solid.

reactant | 4-Bromo-2-fluoroaniline | 12.8 mmol, 2.42 g | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | 1-methyl-5-cyano-2-pyrroleboronic acid | 15.3 mmol, 2.3 g | CN1C(=CC=C1C#N)B(O)O | C6H7BN2O2
reactant | KF | 42.2 mmol, 2.45 g | [F-].[K+]
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.16 mmol, 147 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tri-t-butylphosphine | 0.32 mmol, 0.95 mL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
product | 5-(4-amino-3-fluorophenyl)-1-methyl-1H-pyrrole-2-carbonitrile | 0.76 g | NC1=C(C=C(C=C1)C1=CC=C(N1C)C#N)F | C12H10FN3
